US07608629B2
Preparation 92. 4-[6-(2,4,6-Trifluoro-benzoylamino)-pyridin-2-yloxy]-piperidine-1-carboxylic acid tert-butyl ester
Add 2,4,6-trifluorobenzoyl chloride (1.64 g, 8.42 mmol) to a solution of 4-(6-amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (preparation 71, 2.06 g, 7.02 mmol) in triethylamine (1.066 g, 1.5 mL, 10.53 mmol) and THF (70 mL). Heat at 40° C. overnight. Dilute the mixture with ethyl acetate, wash with 0.1 N HCl, saturated NaHCO3 solution and saturated NaCl solution sequentially. Dry over Na2SO4, filter and concentrate to give a residue. Chromatography (silica gel) eluting with 14% ethyl acetate in hexanes provides 2.482 g (78%) of the title compound: mass spectrum (ion spray): m/z=452.1 (M+1); 1H NMR (CDCl3, ppm): 8.01 (s, br, 1H), 7.87 (d, br, 1H), 7.67 (t, 1H), 6.81 (m, 2H), 6.55 (d, 1H), 5.11 (m, 1H), 3.73 (m, 2H), 3.33 (m, 2H), 1.93 (m, 2H), 1.74 (m 2H), 1.49 (s, 9H).

reactant | 2,4,6-trifluorobenzoyl chloride | 8.42 mmol, 1.64 g | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
reactant | 4-(6-amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 7.02 mmol, 2.06 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC(=CC=C1)N | C15H23N3O3
reactant | triethylamine | 10.53 mmol, 1.5 mL, 1.066 g | C(C)N(CC)CC | C6H15N
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[6-(2,4,6-Trifluoro-benzoylamino)-pyridin-2-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 2.482 g, 78% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC(=CC=C1)NC(C1=C(C=C(C=C1F)F)F)=O | C22H24F3N3O4
